US03978071
A solution of methylmagnesium iodide (prepared from 3.6 g of magnesium and 22 g of methyl iodide) in 40 ml of ether is added dropwise to a mixture of 6.5 g of 4-(imidazo[1,2-a]pyridin-2-yl)benzonitrile and 50 ml of tetrahydrofuran with stirring on an ice bath. The mixture is heated under reflux for 3 hours, and the reaction mixture is cooled with salt and ice. 100 ml of 50% sulfuric acid is added dropwise to the reaction mixture, water is added, and the whole mixture is adjusted to pH 8 by addition of 20% sodium hydroxide. The crystalline precipitate is filtered off, washed with water and recrystallized from dimethylformamide to give 4.2 g of 2-(4-acetylphenyl)-imidazo[1,2-a]pyridine as colorless crystals melting at 209°-210°C. 2.2 g of the thus-obtained 2-(4-acetylphenyl)-imidazo[1,2-a]pyridine is heated with 0.45 g of sulfur and 10 ml of morpholine under reflux for 6 hours. The reaction mixture is cooled, and ethanol is added. The crystalline precipitate is filtered off and washed with ethanol to give 1.4 g of 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetothiomorpholide as yellowish brown crystals melting at 204°-206°C.

reactant | methylmagnesium iodide | 3.6 g | C[Mg]I
reactant | 4-(imidazo[1,2-a]pyridin-2-yl)benzonitrile | 6.5 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C#N)C=C2 | C14H9N3
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-acetylphenyl)-imidazo[1,2-a]pyridine | 4.2 g | C(C)(=O)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C15H12N2O
